US03956374
Step B: 1-(p-Chlorophenyl)-4-phenyl-7-(o-methylphenyl)-1,6-heptadien-3-one
A sodium hydroxide solution (5.5 ml., 20%) is added to a solution of p-chlorobenzaldehyde (14.06 g., 0.1 mole) and 3-phenyl-6-(o-methylphenyl)-5-hexen-2-one (26.4 g., 0.1 mole) in ethanol (260 ml.) with stirring. The yellowish solid that separates on continued stirring is filtered and air-dried, yield 22.5 g., m.p. 60°-76°C. Recrystallization from hexane gives material with m.p. 79°-82°C.

reactant | sodium hydroxide | 5.5 ml | [OH-].[Na+]
reactant | p-chlorobenzaldehyde | 0.1 mole, 14.06 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 3-phenyl-6-(o-methylphenyl)-5-hexen-2-one | 0.1 mole, 26.4 g | C1(=CC=CC=C1)C(C(C)=O)CC=CC1=C(C=CC=C1)C | C19H20O
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | 1-(p-Chlorophenyl)-4-phenyl-7-(o-methylphenyl)-1,6-heptadien-3-one | ClC1=CC=C(C=C1)C=CC(C(CC=CC1=C(C=CC=C1)C)C1=CC=CC=C1)=O | C26H23ClO
